US08623889B2
N-(4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-4-((4-methylpiperazin-1-yl)methyl)benzamide
A solution of 5-amino-2-methylphenylboronic acid pinacol ester (1.001 g, 4.294 mmol), 4-((4-methylpiperazin-1-yl)methyl)benzoic acid (1.112 g, 4.746 mmol) and (7-azabenzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate (2.446 g, 4.691 mmol) in DMF (20 mL) at ambient temperature was added ethyldiisopropylamine (0.98 mL, 5.6 mmol), the mixture stirred at room temperature for 3 d and poured into water (100 ml). The aqueous phase was washed with diethyl ether, treated with saturated aqueous sodium bicarbonate and extracted twice with ethyl acetate. The combined ethyl acetate extracts were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by flash chromatography (silica, ISCO, 10-100% ethyl acetate in heptane, and then 0-20% methanol in DCM modified with 1% ammonia) to afford the title compound as a white solid (456 mg, 24%). 1H NMR (400 MHz, CDCl3) δ 7.97 (dd, J=8.2, 2.0 Hz, 1H), 7.80 (d, J=8.1 Hz, 2H), 7.74 (s, 1H), 7.64 (d, J=2.3 Hz, 1H), 7.44 (d, J=8.1 Hz, 2H), 7.19 (d, J=8.3 Hz, 1H), 3.57 (s, 2H), 2.52 (s, 3H), 2.5 (br s, 8H), 2.31 (s, 3H), 1.35 (s, 12H). LCMS: M+H+=450.4.

reactant | 5-amino-2-methylphenylboronic acid pinacol ester | 4.294 mmol, 1.001 g | NC=1C=CC(=C(C1)B1OC(C)(C)C(C)(C)O1)C | C13H20BNO2
reactant | 4-((4-methylpiperazin-1-yl)methyl)benzoic acid | 4.746 mmol, 1.112 g | CN1CCN(CC1)CC1=CC=C(C(=O)O)C=C1 | C13H18N2O2
reactant | (7-azabenzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate | 4.691 mmol, 2.446 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | ethyldiisopropylamine | 5.6 mmol, 0.98 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | N-(4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-4-((4-methylpiperazin-1-yl)methyl)benzamide | 456 mg, 24% | CC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)CN1CCN(CC1)C)=O)B1OC(C(O1)(C)C)(C)C | C26H36BN3O3
